US04645775
β-Aminoethyl 1,4-dihydro-2,6-dimethyl-3-nitro-4-(2-benzyloxyphenyl)-pyridine-5-carboxylate
14.5 g (26.22 mmol) of β-phthalimido-ethyl 1,4-dihydro-2,6-dimethyl-3-nitro-4-(2-benzoyloxyphenyl)-pyridine-5-carboxylate are suspended in 260 ml of ethanol, and 7 ml (140 mmol) of hydrazine hydrate in 20 ml of ethanol are added dropwise, while boiling. The mixture is boiled for 2 hours, cooled and filtered with suction. The resulting solid product is stirred with 200 mmol of 0.5 N sodium hydroxide solution for 30 minutes, filtered off with suction, washed with water and ethanol and dried. 9.5 g of crystals which are red-orange in color and have a melting point of 216° C. are obtained.

reactant | β-phthalimido-ethyl 1,4-dihydro-2,6-dimethyl-3-nitro-4-(2-benzoyloxyphenyl)-pyridine-5-carboxylate | 26.22 mmol, 14.5 g | CC=1NC(=C(C(C1[N+](=O)[O-])C1=C(C=CC=C1)OC(C1=CC=CC=C1)=O)C(=O)OCCN1C(C=2C(C1=O)=CC=CC2)=O)C | C31H25N3O8
reactant | hydrazine hydrate | 140 mmol, 7 ml | O.NN
reactant | sodium hydroxide | 200 mmol, 0.5 N | [OH-].[Na+]
solvent | ethanol | 260 ml | C(C)O | C2H6O
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | β-Aminoethyl 1,4-dihydro-2,6-dimethyl-3-nitro-4-(2-benzyloxyphenyl)-pyridine-5-carboxylate | CC=1NC(=C(C(C1[N+](=O)[O-])C1=C(C=CC=C1)OCC1=CC=CC=C1)C(=O)OCCN)C | C23H25N3O5
